US04959366
(D) N,N-Bis-(4-methanesulphonamidophenethyl)ethylamine
N,N-Bis-(4-aminophenethyl)ethylamine (0.3 g) was acylated with methanesulphonyl chloride in a similar fashion to Example 19(C) to produce the title compound as a foam, yield 0.12 g, m.p. <60°.

reactant | N,N-Bis-(4-aminophenethyl)ethylamine | 0.3 g | NC1=CC=C(CCN(CCC2=CC=C(C=C2)N)CC)C=C1 | C18H25N3
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N,N-Bis-(4-methanesulphonamidophenethyl)ethylamine | CS(=O)(=O)NC1=CC=C(CCN(CCC2=CC=C(C=C2)NS(=O)(=O)C)CC)C=C1 | C20H29N3O4S2
